US04450164
6-Benzylamino-2-methylimidazo[1,2-a]pyridine-3-acetonitrile
A mixture of 2-amino-5-benzylamino pyridine (4.0 g), triethylamine (2.1 g),3-chloro-4-oxopentanenitrile (2.7 g) and acetonitrile (50 ml) is stirred and heated under reflux for 18 hr. The solvent is removed in vacuo, and the residue is dissolved in chloroform (200 ml). The solution is washed with water (4×100 ml), dried over anhydrous potassium carbonate and the chloroform is removed in vacuo. The residue is chromatographed on silica gel (200 g) using chloroform as the eluant. The product is obtainedand crystallized from acetonitrile.

reactant | 2-amino-5-benzylamino pyridine | 4.0 g | NC1=NC=C(C=C1)NCC1=CC=CC=C1 | C12H13N3
reactant | triethylamine | 2.1 g | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-4-oxopentanenitrile | 2.7 g | ClC(CC#N)C(C)=O | C5H6ClNO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 6-Benzylamino-2-methylimidazo[1,2-a]pyridine-3-acetonitrile | C(C1=CC=CC=C1)NC=1C=CC=2N(C1)C(=C(N2)C)CC#N | C17H16N4
